US06004977
N-[2-(2-Bromo-5-methoxyphenyl)ethylidene]-N'-pyridin-4-yl-hydrazine
A mixture of 4-bromo-1-methoxy-3-(2-methoxyvinyl)benzene (42.3 g), 4-hydrazinopyridine (27.6 g), and p-toluenesulfonic acid (3.3 g) in ethanol (500 ml) was heated under reflux overnight, with stirring. The reaction mixture was filtered, and the filtrate was concentrated to about 50% of its initial volume. The precipitate was collected to give 5.5 g of product, as the hydrochloride salt, and the filtrate was concentrated. Saturated sodium hydrogen carbonate solution was added to the residue and the mixture was extracted with ethyl acetate. The organic extract was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed on a Waters LC2000 instrument, gradient eluting with: 1% ethylamine/2% methanol/97% ethyl acetate/1% triethylamine acid/5% methanol/94% ethyl acetate. The appropriate fractions were collected and concentrated to yield 4.9 g (8.8%) of product, mp 142° C.

reactant | 4-bromo-1-methoxy-3-(2-methoxyvinyl)benzene | 42.3 g | BrC1=C(C=C(C=C1)OC)C=COC | C10H11BrO2
reactant | 4-hydrazinopyridine | 27.6 g | N(N)C1=CC=NC=C1 | C5H7N3
reactant | p-toluenesulfonic acid | 3.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | N-[2-(2-Bromo-5-methoxyphenyl)ethylidene]-N'-pyridin-4-yl-hydrazine | 5.5 g | BrC1=C(C=C(C=C1)OC)CC=NNC1=CC=NC=C1 | C14H14BrN3O
